US06307047B1
2-Phenyl-4-chloro-5-methoxy-3(2H)-pyridazinone
The title compound was prepared according to the method of (S. Cho et al. described in J. Het. Chem., (1996), 33, 1579-1582), starting with the N-phenyl-dichloropyridazinone. A mixture of 2-phenyl-4,5-dichloro-3(2H)-pyridazinone (1 g, 4.1 mmol) and finely powdered, anhydrous K2CO3 (580 mg, 4.2 mmol) in 50 mL of methanol was heated at reflux for 5 hours and concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The acetate layer was washed with water, and brine to provide 2-phenyl-4-chloro-5-methoxy-3(2H)-pyridazinone (yield: 920 mg, 95%). 1H NMR (300 MHz, DMSO-d6) δ 4.15 (s, 3H), 7.50 (m, 5H), 8.43 (s, 1H). MS (DCI/NH3) m/z 237 (M+H)+, 254 (M+NH4)+.

reactant | N-phenyl-dichloropyridazinone | C1(=CC=CC=C1)N1NC(C(C(=C1)Cl)Cl)=O | C10H8Cl2N2O
reactant | 2-phenyl-4,5-dichloro-3(2H)-pyridazinone | 4.1 mmol, 1 g | C1(=CC=CC=C1)N1N=CC(=C(C1=O)Cl)Cl | C10H6Cl2N2O
reactant | K2CO3 | 4.2 mmol, 580 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-phenyl-4-chloro-5-methoxy-3(2H)-pyridazinone | yield: 920 mg, 95% | C1(=CC=CC=C1)N1N=CC(=C(C1=O)Cl)OC | C11H9ClN2O2
